US09388161B2
Methyl (S)-5-cyclobutoxy-2-methyl-6-(1-(1-methylpiperidin-4-yl)-1H-pyrazol-4-yl)-3,4-dihydroquinoline-1(2H)-carboxylate was synthesized from methyl (S)-6-bromo-5-cyclobutoxy-2-methyl-3,4-dihydroquinoline-1(2H)-carboxylate and tert-butyl 4-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazol-1-yl)piperidine-1-carboxylate according to the procedure outlined above for Example 60. 1H NMR (300 MHz, CDCl3) δ ppm 0.64-0.99 (m, 1H), 1.12-1.26 (m, 4H), 1.39-1.52 (m, 1H), 1.55-1.67 (m, 1H), 1.97-2.14 (m, 5H), 2.14-2.27 (m, 1H), 2.30-2.58 (m, 2H), 2.63 (br s, 1H), 2.73-2.78 (m, 1H), 2.79 (s, 3H), 2.84-3.09 (m, 1H), 3.15 (br s, 1H), 3.37-3.63 (m, 4H), 3.64-3.92 (m, 3H), 4.54 (s, 1H), 7.14-7.39 (m, 2H), 7.81 (d, J=8.21 Hz, 2H). MS (ESI, pos. ion) m/z 439 [M+H]+.

reactant | methyl (S)-6-bromo-5-cyclobutoxy-2-methyl-3,4-dihydroquinoline-1(2H)-carboxylate | BrC=1C(=C2CC[C@@H](N(C2=CC1)C(=O)OC)C)OC1CCC1 | C16H20BrNO3
reactant | tert-butyl 4-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazol-1-yl)piperidine-1-carboxylate | CC1(OB(OC1(C)C)C=1C=NN(C1)C1CCN(CC1)C(=O)OC(C)(C)C)C | C19H32BN3O4
product | Methyl (S)-5-cyclobutoxy-2-methyl-6-(1-(1-methylpiperidin-4-yl)-1H-pyrazol-4-yl)-3,4-dihydroquinoline-1(2H)-carboxylate | C1(CCC1)OC1=C2CC[C@@H](N(C2=CC=C1C=1C=NN(C1)C1CCN(CC1)C)C(=O)OC)C | C25H34N4O3
